US04150139
By a procedure similar to that described in Examples 13, the reaction of 8-methyl-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine with selenium dioxide gave 8-methyl-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepin-11-one as crystals. Recrystallization from methanol yielded colorless platelets melting at 178°-179° C.

reactant | 8-methyl-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepine | CC=1C=CC2=C(C=CN3C(C2)=NN=C3SC)C1 | C13H13N3S
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | 8-methyl-3-methylthio-11H-s-triazolo[3,4-b][3]benzazepin-11-one | CC=1C=CC2=C(C=CN3C(C2=O)=NN=C3SC)C1 | C13H11N3OS
